US04477446
2,5-Dihydro-7,8-dimethylbenz(f)azepine-2,5-dione
To a chloroform solution of the 4-bromo-2,3,4,5-tetrahydro-7,8-dimethyl-2,5-dioxobenz(f)azepine was added hydrated sodium acetate. On shaking, filtration, and storage, yellow 2,5-dihydro-7,8-dimethylbenz(f)azepine-2,5-dione, mp 258° C. (from propanol) was deposited.

reactant | 4-bromo-2,3,4,5-tetrahydro-7,8-dimethyl-2,5-dioxobenz(f)azepine | BrC1CC(NC2=C(C1=O)C=C(C(=C2)C)C)=O | C12H12BrNO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,5-Dihydro-7,8-dimethylbenz(f)azepine-2,5-dione | CC=1C(=CC2=C(C(C=CC(N2)=O)=O)C1)C | C12H11NO2
